US04797499
196.5 g (1.34 mol) of 5-chloro-3,3-dimethylpent-1-en-4-one were added dropwise to a mixture of 184.9 g (1.34 mol) of potassium carbonate and 227.8 (1.34 mol) of 4-hydroxybiphenyl in 1,000 ml of boiling acetone, in the course of one hour. The mixture was heated to the boil after 5 hours, allowed to cool to room temperature, and filtered off from the precipitated potassium chloride. The oil which remained after the filtrate had been concentrated was taken up in 1,000 ml of ethyl acetate. The solution was washed twice with 150 ml each of 10% strength sodium carbonate solution and water, and dried over anhydrous sodium sulphate, and the solvent was distilled off. Residual amounts of solvent were stripped off at 0.13 mbar (bath temperature: 180° C.). 357.2 (95% of theory) of 5-(biphenyl-4-yloxy)-3,3-dimethylpent-1-en-4-one of melting point 42° to 44° C. were obtained in this manner.

reactant | 5-chloro-3,3-dimethylpent-1-en-4-one | 1.34 mol, 196.5 g | ClCC(C(C=C)(C)C)=O | C7H11ClO
reactant | potassium carbonate | 1.34 mol, 184.9 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-hydroxybiphenyl | OC1=CC=C(C=C1)C1=CC=CC=C1 | C12H10O
solvent | acetone | 1,000 ml | CC(=O)C | C3H6O
product | 5-(biphenyl-4-yloxy)-3,3-dimethylpent-1-en-4-one | 95% | C1(=CC=C(C=C1)OCC(C(C=C)(C)C)=O)C1=CC=CC=C1 | C19H20O2
